US05750545
(1) n-Propyl 4-chloro-2-n-propoxybenzoate
The synthesis was carried out according to the method of Example 18-(1). 4-Chlorosalicylic acid (8.5 g), : 60% oil sodium hydride (4.5 g), n-propyl iodide (50 g), tetrahydrofuran (30 ml) and dimethylformamide (25 ml) were used as reagents. The mixture was reacted for 1 hour at 90° C. After the reaction, the mixture was chromatographed on silica gel (hexane-ethyl acetate) to give 7.63 g of a colorless transparent liquid (yield 63%).

reactant | 4-Chlorosalicylic acid | 8.5 g | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | sodium hydride | 4.5 g | [H-].[Na+]
reactant | n-propyl iodide | 50 g | C(CC)I | C3H7I
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | n-Propyl 4-chloro-2-n-propoxybenzoate | 7.63 g, yield 63% | ClC1=CC(=C(C(=O)OCCC)C=C1)OCCC | C13H17ClO3
